US06391874B1
N2-(5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-ylmethyl)-N1,N1-dimethyl-propane-1,2-diamine
5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-carbaldehyde and N,N-dimethyl-1,2-propanediamine were reacted in an analogous manner to Example 10 to give the title compound; δH [2H6]-DMSO 9.83 (1H, b,), 8.70 (1H, s), 8.42 (1H, s), 8.10 (1H, d), 7.73 (1H, d), 7.64 (2H, d), 7.50-7.28 (5H, m), 7.02 (2H, d), 6.99 (1H, s), 6.52 (1H, d), 5.10 (2H, s), 3.93-3.70 (2H, m), 2.04 (9H, m), 0.92 (3H, m); m/z 508 (M+1)+.

reactant | 5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-carbaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(O1)C=O | C26H19N3O3
reactant | N,N-dimethyl-1,2-propanediamine | CN(CC(C)N)C | C5H14N2
product | N2-(5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-ylmethyl)-N1,N1-dimethyl-propane-1,2-diamine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(O1)CNC(CN(C)C)C | C31H33N5O2
